US07863291B2
To (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride (0.093 g, 0.41 mmol) in N,N-dimethylformamide (20 mL) was added Cs2CO3 (0.33 g, 1 mmol)) and 6-isothiocyanato-2′-methoxy-4,5′-bipyrimidine (0.1 g, 0.41 mmol). The suspension was stirred at room temperature for 30 minutes. N,N′-Diisopropylcarbodiimide (0.19 mL, 1.2 mmol) was then added and the mixture was stirred at room temperature for 18 hours. The mixture was concentrated and purified by silica gel chromatography (5-25% [9:1 methanol:ammonium hydroxide]-ethyl acetate) to afford (R)—N-(2′-methoxy-4,5′-bipyrimidin-6-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (0.072 g, 0.188 mmol, 46% yield) as an off-white solid. 1H NMR (400 MHz, MeOD) δ ppm 9.19 (2 H, s), 8.80 (1 H, d), 7.24 (1 H, br. s.), 4.00-4.09 (4 H, m), 3.76 (1 H, d), 3.23 (1 H, s), 3.08-3.15 (1 H, m), 2.72-3.04 (4 H, m), 1.97-2.22 (2 H, m), 1.38-1.85 (3 H, m). R.T.=1.22; [M+H]+=368.22.

reactant | (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 0.41 mmol, 0.093 g | Cl.Cl.NC[C@@]1(CN2CCC1CC2)O
reactant | Cs2CO3 | 1 mmol, 0.33 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 6-isothiocyanato-2′-methoxy-4,5′-bipyrimidine | 0.41 mmol, 0.1 g | N(=C=S)C1=CC(=NC=N1)C=1C=NC(=NC1)OC | C10H7N5OS
reactant | N,N′-Diisopropylcarbodiimide | 1.2 mmol, 0.19 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | (R)—N-(2′-methoxy-4,5′-bipyrimidin-6-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.188 mmol, 0.072 g, 46% yield | COC1=NC=C(C=N1)C1=NC=NC(=C1)NC=1O[C@]2(CN3CCC2CC3)CN1 | C18H21N7O2
